US04581452
A solution of 1,3-dimethylurea (423 mg; 4.8 mmoles) in DMF (5 ml) was cooled to 0° C., and α-trifluoromethylacryloyl chloride (792 mg; 5.0 mmoles) was added dropwise. The mixture was stirred at room temperature for 1 hour. Then, water (20 ml) was added, and the mixture was extracted with methylene chloride (20 ml×1, 10 ml×2). The combined extracts were dried over anhhdrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by a column chromatography on silica gel (chloroform) to give 508 mg (yield: 50%) of 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil (OF-1).

reactant | 1,3-dimethylurea | 4.8 mmoles, 423 mg | CNC(=O)NC | C3H8N2O
reactant | α-trifluoromethylacryloyl chloride | 5.0 mmoles, 792 mg | FC(C(C(=O)Cl)=C)(F)F | C4H2ClF3O
reactant | water | 20 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil | 508 mg, yield: 50% | CN1C(=O)N(C(=O)C(C1)C(F)(F)F)C | C7H9F3N2O2
